US08252806B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-(4-trifluoromethyl-phenyl)-amine (Compound B7)
Was prepared according to Method B from 2,4-dichloroquinazoline, 4-trifluoromethylaniline and 3,5-dimethylpyrazole. Mp. 218.8-220.1° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 4-trifluoromethylaniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-(4-trifluoromethyl-phenyl)-amine | CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)NC1=CC=C(C=C1)C(F)(F)F | C20H16F3N5
